US05700824
Preparation of 5-[3-chloro-4-(3-chloro-5-trifluoromethylpyridine-2-yloxymethyl)phenyl]-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole (Compound No. 332)
Sodium hydride (60%, 0.16 g) is added to 1,2-dimethoxyethane (50 ml) and a solution of 3-(2-chloro-6-fluorophenyl)-5-(3-chloro-4-hydroxymethylphenyl)-1-methyl-1H-1,2,4-triazole (1.20 g) in 1,2-dimethoxyethane (20 ml) is added dropwise thereto at -5° C. with stirring. To the reaction solution is added dropwise a solution of 2,3-dichloro-5-trifluoromethyl pyridine (0.80 g) in 1,2-dimethoxyethane (20 ml) at -5° C. for 10 minutes, which is further stirred for 15 minutes. On completion of the reaction, the reaction solution is warmed to room temperature, poured into water and extracted with ethyl acetate. The organic layer is washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate is purified by silica gel column chromatography to give 1.10 g of desired compound (melting point: 47.0°-49.0° C.).

reactant | Sodium hydride | 0.16 g | [H-].[Na+]
reactant | 3-(2-chloro-6-fluorophenyl)-5-(3-chloro-4-hydroxymethylphenyl)-1-methyl-1H-1,2,4-triazole | 1.20 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CC(=C(C=C1)CO)Cl)C | C16H12Cl2FN3O
reactant | 2,3-dichloro-5-trifluoromethyl pyridine | 0.80 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | 5-[3-chloro-4-(3-chloro-5-trifluoromethylpyridine-2-yloxymethyl)phenyl]-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 1.10 g | ClC=1C=C(C=CC1COC1=NC=C(C=C1Cl)C(F)(F)F)C1=NC(=NN1C)C1=C(C=CC=C1F)Cl | C22H13Cl3F4N4O
